US07902308B2
3.2—Synthesis of 2,4-bis(tert-butyl)-6-[[(2,6-dichlorophenyl)amino]methyl]-phenol
Using an analogous procedure to the synthesis of 2,4-bis(tert-butyl)-6-[[(2,6-dibromophenyl)amino]methyl]phenol described above, NaBH4 (0.8 g) was added to a solution of 2,4-bis(tert-butyl)-6-[[(2,6-dichlorophenyl)imino]methyl]phenol (0.91 g, 2.41 mmol). The product was purified from hot hexane and isolated as colourless crystals. Yield 0.61 g, 67%.

reactant | 2,4-bis(tert-butyl)-6-[[(2,6-dibromophenyl)amino]methyl]phenol | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)CNC1=C(C=CC=C1Br)Br)O | C21H27Br2NO
reactant | NaBH4 | 0.8 g | [BH4-].[Na+]
reactant | 2,4-bis(tert-butyl)-6-[[(2,6-dichlorophenyl)imino]methyl]phenol | 2.41 mmol, 0.91 g | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)C=NC1=C(C=CC=C1Cl)Cl)O | C21H25Cl2NO
product | 2,4-bis(tert-butyl)-6-[[(2,6-dichlorophenyl)amino]methyl]-phenol | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)CNC1=C(C=CC=C1Cl)Cl)O | C21H27Cl2NO
